US09382188B2
K) 2-((3-(bromomethyl)benzyl)oxy)tetrahydro-2H-pyran
To a solution of (3-(bromomethyl)phenyl)methanol (8.78 g) and 3,4-dihydro-2H-pyran (5.99 mL) in THF (60 mL) was added p-toluenesulfonic acid monohydrate (415 mg), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added an aqueous solution of sodium hydrogen carbonate (367 mg), and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (11.9 g) as a colorless oil.

reactant | (3-(bromomethyl)phenyl)methanol | 8.78 g | BrCC=1C=C(C=CC1)CO | C8H9BrO
reactant | 3,4-dihydro-2H-pyran | 5.99 mL | O1CCCC=C1 | C5H8O
reactant | sodium hydrogen carbonate | 367 mg | C(O)([O-])=O.[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | p-toluenesulfonic acid monohydrate | 415 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-((3-(bromomethyl)benzyl)oxy)tetrahydro-2H-pyran | 11.9 g | BrCC=1C=C(COC2OCCCC2)C=CC1 | C13H17BrO2
